US05578636
Preparation of 5-(4,4-dimethoxy-3-oxo-1-butenyl)-2,2'-bithiophene
To a solution of 5-formyl-2,2'-bithiophene (4.0 g) in ethanol (120 ml) was added dimethoxymethyl methyl ketone (3 ml). Potassium hydroxide aqueous solution (50%) was added dropwisely into the solution mixture at 16° C. Color changed from yellowish brown into dark green, then dark brown. Yellow solid was formed during the reaction. Water was added. Solid residue was filtered and washed with water, redissolved in acetone and separated by silica gel chromatography eluted with ethyl acetate/n-hexane (1:9). Yellowish crystals 1.88 g were obtained, melting point 74° C.

reactant | 5-formyl-2,2'-bithiophene | 4.0 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | dimethoxymethyl methyl ketone | 3 ml | CC(=O)C(OC)OC | C5H10O3
reactant | Potassium hydroxide | [OH-].[K+]
reactant | Water | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 5-(4,4-dimethoxy-3-oxo-1-butenyl)-2,2'-bithiophene | 1.88 g | COC(C(C=CC1=CC=C(S1)C=1SC=CC1)=O)OC | C14H14O3S2
